### PR TITLE
[Merged by Bors] - feat: move set inverse/negative inside binders

### PR DESCRIPTION
**Pull request by vihdzp**
---

Used in the CGT repo.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Pointwise/Set/Basic.lean [hunk 1]
```diff
@@ -241,6 +241,16 @@ theorem inv_range {ι : Sort*} {f : ι → α} : (range f)⁻¹ = range fun i =>
   rw [← image_inv_eq_inv]
   exact (range_comp ..).symm
 
+@[to_additive (attr := simp)]
+theorem forall_mem_inv {p : α → Prop} : (∀ x, x⁻¹ ∈ s → p x) ↔ ∀ x ∈ s, p x⁻¹ := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Group/Pointwise/Set/Basic.lean]: Shouldn't this be?
```suggestion
theorem forall_inv_mem {p : α → Prop} : (∀ x, x⁻¹ ∈ s → p x) ↔ ∀ x ∈ s, p x⁻¹ := by
```

File: Mathlib/Algebra/Group/Pointwise/Set/Basic.lean [hunk 2]
```diff
@@ -241,6 +241,16 @@ theorem inv_range {ι : Sort*} {f : ι → α} : (range f)⁻¹ = range fun i =>
...
+  rw [← (Equiv.inv _).forall_congr_right]
+  simp
+
+@[to_additive (attr := simp)]
+theorem exists_mem_inv {p : α → Prop} : (∃ x, x⁻¹ ∈ s ∧ p x) ↔ ∃ x ∈ s, p x⁻¹ := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Group/Pointwise/Set/Basic.lean]: As above, I'd have called this:
```suggestion
theorem exists_inv_mem {p : α → Prop} : (∃ x, x⁻¹ ∈ s ∧ p x) ↔ ∃ x ∈ s, p x⁻¹ := by
```

**Review by ocfnash — APPROVED** [review]
Thanks!

I'm fairly surprised these didn't exist already.

bors d+
